US04937240
To a solution of 1.1 g of 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid in 15 ml of dimethylformamide are added 0.4 g of N-hydroxybenzotriazole and 0.3 g of piperidine and stirred at room temperature for 10 minutes. To the mixture is added 0.65 g of dicyclohexyl carbodiimide under ice-cooling and stirred for 1 hour and furthermore stirred at room temperature for 21 hours. The resulting dicyclohexylurea is filtered off and to the filtrate is added 100 ml of chloroform. The solution is washed with 5% aqueous sodium hydrogen-carbonate solution and water and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the residue is crystallized from isopropyl ether. The precipitated crystals are collected by filtration and recrystallized from ethyl acetate to give 0.9 g of 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4 ]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid piperidide as colorless crystals, melting at 182°-183° C.

reactant | 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid | 1.1 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC(=O)O)C(=NN2)C)C | C18H15ClN4O2S
reactant | N-hydroxybenzotriazole | 0.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | piperidine | 0.3 g | N1CCCCC1 | C5H11N
reactant | dicyclohexyl carbodiimide | 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4 ]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid piperidide | 0.9 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC(=O)N3CCCCC3)C(=NN2)C)C | C23H24ClN5OS
